US03959289
a. 2,6-Dinitrobenzonitrile
1-Chloro-2,6-dinitrobenzene (40.4 grams) is dissolved in anhydrous dimethylformamide (200 ml.). Cuprous cyanide (72 grams) is added and the stirred reaction mixture is heated to reflux for 6 hours. The dark brown reaction mixture is cooled and poured into water (1.5 l.) with stirring. The tan precipitate is collected by filtration and then extracted three times with hot ethanol (300 ml.). Removal of two-thirds of the solvent from combined ethanol extracts under reduced pressure gives a tan precipitate. The precipitate is collected by filtration and recrystallized from ethanol to give a tan product (7.2 grams) melting at 143°-146.5°.

reactant | 1-Chloro-2,6-dinitrobenzene | 40.4 grams | ClC1=C(C=CC=C1[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | water | 1.5 l | O | H2O
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2,6-Dinitrobenzonitrile | 7.2 grams | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
